US07745663B2
To a solution of 4-bromo-n-butyric acid ethyl ester (1.2 g, 6.13 mmol) in dimethylformamide (9 ml) were added N-hydroxyphthalimide (1.5 g, 9.19 mmol) and Hunig base (N,N-diisopropylethylamine, 2.13 mL) at room temperature, and the mixture was stirred at 80° C. over night. The reaction mixture was poured into saturated aqueous ammonium chloride, and the resultant mixture was extracted with ethyl acetate (3×40 ml). The combined organic layers were washed with saturated brine (2×30 ml), dried over Na2SO4, and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (100 g, n-hexane/ethyl acetate (2:1)) to give 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-butyric acid ethyl ester (1.47 g, 100%).

reactant | 4-bromo-n-butyric acid ethyl ester | 6.13 mmol, 1.2 g | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | N-hydroxyphthalimide | 9.19 mmol, 1.5 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Hunig base | 2.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-butyric acid ethyl ester | 1.47 g, 100% | C(C)OC(CCCON1C(C2=CC=CC=C2C1=O)=O)=O | C14H15NO5
